US07759362B2
The preparation comprises stirring [1S,6S]-8-benzyl-2,8-diazabicyclo[4,3,0]nonane (5.0 g, 23.1 mmol) in methanol (50 mL) at room temperature, adding batchwise tertbutyloxycarbonyl dicarbonate (5.1 g, 23.4 mmol), stirring for 0.5 h, vacuum distilling to remove solvent, and column chromatographing with petroleum ether and ethyl, acetate at the ratio of 10:1 to give [1S,6S]-8-benzyl-2-tertbutyloxycarbonyl-2,8-diazabicyclo[4,3,0]nonane (7.1 g, 97.2%), [α]20D=−72.4° (CHCl3, C=5).

reactant | [1S,6S]-8-benzyl-2,8-diazabicyclo[4,3,0]nonane | 23.1 mmol, 5.0 g | C(C1=CC=CC=C1)N1C[C@@H]2CCCN[C@@H]2C1 | C14H20N2
reactant | tertbutyloxycarbonyl dicarbonate | 23.4 mmol, 5.1 g | C(=O)(OC(=O)OC(C)(C)C)OC(=O)[O-]
solvent | methanol | 50 mL | CO | CH4O
product | [1S,6S]-8-benzyl-2-tertbutyloxycarbonyl-2,8-diazabicyclo[4,3,0]nonane | 7.1 g, 97.2% | C(C1=CC=CC=C1)N1C[C@@H]2CCCN([C@@H]2C1)C(=O)OC(C)(C)C | C19H28N2O2
